US03931232
3-(1,2-Dimethylheptyl)-5,6,7,8,-tetrahydro-1-hydroxy-6,9-dimethylxanthene
A solution of 3.6 g. of 2-acetyl-5 -methylcyclohexanone and 5.6 g. of 5-(1,2-dimethylheptyl)resorcinol in 150 ml. of acetic acid is cooled to 15° and saturated with hydrogen chloride gas. The solution is allowed to warm to 25°, stirred for 20 hours and then heated for one hour on a steam bath. The reaction mixture is concentrated in vacuo, water is added and the residue is dissolved in ethyl acetate. The ethyl acetate solution is washed with water, dried (MgSO4) and concentrated to give a residue which is distilled five times, b.p. 195°-200° (0.025 mm.). The distillate is chromatographed on silica gel with benzene as eluant. The second fraction is collected and distilled to give the title compound, b.p. 190°-195° (0.05 mm.).

reactant | 2-acetyl-5 -methylcyclohexanone | C(C)(=O)C1C(CC(CC1)C)=O | C9H14O2
reactant | 5-(1,2-dimethylheptyl)resorcinol | CC(C(CCCCC)C)C=1C=C(C=C(O)C1)O | C15H24O2
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(1,2-Dimethylheptyl)-5,6,7,8,-tetrahydro-1-hydroxy-6,9-dimethylxanthene | CC(C(CCCCC)C)C=1C=C(C=2C(C=3CCC(CC3OC2C1)C)C)O | C24H36O2
